Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Adhesive Tape
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
Right internal jugular triple lumen catheter
Endoscopy
Colonoscopy
Capsule Endoscopy
Blood transfusion x3

 
History of Present Illness:
___ year-old male with hepatitis C cirrhosis s/p liver transplant 
with recurrent hepatitis C complicated by ascites/ 
encephalopathy/ varices/ chronic portal and splenic venous 
thrombosis. with melena.  Seen in Dr. ___ today, 
found to have BP 90/50.  Reports dark stools x3 days, with frank 
blood mixed with stool at 3:00am morning preceding admission.  
Of note, EGD (___) showed 3 cords Grade I varices, portal 
gastropathy.
   
In the ED, 98.6 66 102/58 16 99%RA.  Noted to have dark brown 
stool mixed with bloody mucous.  NG lavage not performed.  
Laboratory data significant for hematocrit 25.9 (baseline 31) 
with tbili 1.7, alk phos 258.  Written for 2 units pRBCs, has 
not received yet.  Hemodynamically stable.  Transplant notified, 
but have not seen the patient.  Received Protonix, ceftriaxione, 
octreotide.  On transfer to MICU, 68, 102/57, 18, 100% 2L.
  
On the floor, reports feeling well.  Denies fever, chills, 
lightheadedness.  Reports nonproductive cough, longstanding.  
Denies chest pain, shortness of breath, palpitations.  Reports 
occasional cramping in lower abdomen.  Denies nausea, vomiting, 
dysuria, hematuria, bruising.
 
Past Medical History:
Past Medical History:  
-ITP  
-SVT last episode approximately ___, medically managed at this 
time  
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with 
rejection and steroid use since ___ to present; also 
complicated with Hepatitis C recurrence and restarted peg 
interferon ___. Hep C possibly contracted from ___.  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal 
septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % (had received blood transfusions with splenectomy  
), insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and  

then removal ___  

 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2  

 
Physical Exam:
98.2, 72, 113/55, 17, 95% RA
General:  Alert, oriented, comfortable
HEENT:  Sclera anicteric, dry mucous membranes
Neck:   JVP not elevated, no LAD
Lungs:  Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV:  Regular rate and rhythm, normal S1 + S2, II/VI early 
systolic murmur LUSB
Abdomen:  Normoactive bowel sounds, prior incision scars noted, 
soft, non-tender
GU:  No foley
Rectal:  Per ED, guaiac positive brown stool
Ext:  Thin; warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema
Neuro:  No asterixis
 
Pertinent Results:
ADMISSION LABS:
___ 01:48PM WBC-6.8 RBC-2.36* Hgb-8.5* Hct-25.9* MCV-110* 
Plt ___
___ 01:48PM Neuts-52 Bands-0 ___ Monos-11 Eos-4 
Baso-0 ___ Myelos-0
___ 01:48PM Hypochr-1+ Anisocy-NORMAL Poiklo-1+ Macrocy-3+ 
Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Target-2+ 
Schisto-OCCASIONAL Burr-OCCASIONAL Acantho-1+
___ 01:48PM ___ PTT-33.9 ___
___ 01:48PM Glucose-97 UreaN-31 Cr-1.0 Na-138 K-4.9 Cl-110* 
HCO3-20* 
___ 01:48PM ALT-39 AST-64* AlkPhos-258* TotBili-1.7*
___ 01:48PM Lipase-157*
___ 01:48PM Albumin-3.0*
___ 04:04PM Lactate-0.9
   
URINE:
___ 03:50PM Color-Yellow Appear-Clear Sp ___
___ 03:50PM Blood-NEG Nitrite-NEG Protein-25 Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 03:50PM RBC-0 WBC-0 Bacteri-RARE Yeast-NONE ___ 03:50PM Sulf X-MOD
   
MICRO: 
___ BCx: NGTD
   
STUDIES:
___ EKG:
Normal sinus rhythm. Tracing is within normal limits. Compared 
to the previous tracing of ___ no diagnostic interval 
change. 
   
___ EGD:
- Varices at the lower third of the esophagus and 
gastroesophageal junction
Erythema, congestion, abnormal vascularity and mosaic appearance 
in the stomach compatible with portal hypertensive gastropathy
- Polyp in the proximal body (injection)
- Beyond pylorus, 8 mm non bleeding polyp adjacent to 
hepatico-jejunostomy.
- Otherwise normal EGD to second part of the duodenum 
Recommendations: Grade I esophageal varix. No stigmata of 
bleeding. No gastric varices noted. Bleeding polyp noted in 
proximal body of stomach injected with epi with hemostasis. 
Polyp adjacent to hepatico-jejonostomy which needs biopsy as 
outpatient. Potential source of bleeding from gastric polyp. 
Continue IV PPI. Continue abx. DC octreotide gtt. Trend HCT. 
  
___ CXR:
Right IJ catheter tip extends to the lower portion of the SVC. 
No 
evidence of pneumothorax. The far left portion of the chest has 
been 
eliminated from the image, but there is no evidence of acute 
cardiopulmonary disease. 
   
___ Colonoscopy:
- Normal mucosa in the colon
- Old blood mixed with bowel prep throughout the colon.
- Area of ? flat lesion noted in the transverse colon.
- Otherwise normal colonoscopy to cecum 
Recommendations: please keep pt on clears and proceed with 
capsule endoscopy 
   
___ Capsule Endoscopy:
several nonbleeding ulcers in the small bowel.  
The differential diagnosis includes ASA/NSAID induced damage, 
IBD, ulcerative jejunoileitis or infectious etiologies (possibly 
viral in nature)

   
DISCHARGE LABS:
HCT 29.2

 
Brief Hospital Course:
Mr. ___ is a ___ with hepatitis C cirrhosis s/p liver 
transplant with recurrent hepatitis C cirrhosis complicated by 
ascites/encephalopathy who was admitted with GIB/melena.
   
#.  LGIB:  Initial immediate concern was for UGIB, particularly 
variceal bleeding or portal gastropathy in this patient with 
decompensated liver disease.  Differential also included 
gastritis and LGI sources, including hemorrhoids, 
diverticulosis, AVM.  The patient immediately received 2U PRBCs 
post transfusion hct decreased from 25.9 in the ED to 25.8.  
Protonix gtt, octreotide gtt and ceftriaxone daily were started. 
 EGD was performed upon arrival to the ICU which showed 
non-bleeding esphageal and gastric varices as well as an oozing 
gastric polyp which was injected with epinephrine- nothing to 
suggest the cause of patients relatively brisk decrease in 
hematocrit.  Colonoscopy was performed on HD2 which again did 
not show any obvious cause of bleeding.  Dark old blood was 
noted to be transiting through the colon.  Hct trended down 
gently on HD2 and another 1U PRBC transfusion was given.  The 
patient underwent capsule endoscopy on HD2 which showed several 
small ulcers in the small bowel.
  
#. Hepatitis C cirrhosis s/p liver transplant:  Tbili slightly 
elevated from baseline although AST, ALT, alk phos improved from 
baseline.  Patient was not clinically encephalopathic while in 
the ICU.  Transplant surgery was consulted and aware of patient. 
Tacrolimus 0.5mg PO BID, Lamivudine 100mg PO daily (donor was 
HbcAb positive) and Ursodiol 300mg PO BID were continued.
   
#. Duodenal polyp- a non-bleeding duodenal polyp was seen on EGD 
that should be biopsied as an outpatient at a later date.
   

 
Medications on Admission:
ALENDRONATE - 70 mg Tablet - 1 Tablet(s) by mouth weekly take 30
minutes before other meds or food. Take w/ 8 oz water & remain
upright for 30 min. after dose.
ATENOLOL - 25 mg Tablet - 1 Tablet(s) by mouth once a day
CLINDAMYCIN HCL - 300 mg Capsule - 2 Capsule(s) by mouth x 1 1
hour before dental work or cleanings.
ERGOCALCIFEROL (VITAMIN D2) - 50,000 unit Capsule - 1 Capsule(s)
by mouth weekly
LAMIVUDINE [EPIVIR HBV] - 100 mg Tablet - 1 Tablet(s) by mouth
once a day
LATANOPROST [XALATAN] - 0.005 % Drops - 1 Drops(s) in each eye 
HS
(at bedtime) both eyes
LIPASE-PROTEASE-AMYLASE [PANCREASE] - 20,000 unit-4,500
unit-25,000 unit Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
by
mouth three times a day with meals
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 2 Capsule(s)
by mouth twice a day
SERTRALINE - 50 mg Tablet - 1 Tablet(s) by mouth once a day
SULFAMETHOXAZOLE-TRIMETHOPRIM [BACTRIM DS] - 800 mg-160 mg 
Tablet
- 1 Tablet(s) by mouth three times a day
TACROLIMUS - 0.5 mg Capsule - 1 Capsule(s) by mouth twice a day
TESTOSTERONE [ANDROGEL] - 50 mg/5 gram (1 %) Gel in Packet -
apply one packet per day daily (Patient should get 5  gram per
day) - No Substitution
TRAZODONE - 100 mg Tablet - 1 Tablet(s) by mouth HS (at bedtime)
as needed for insomnia
URSODIOL - 300 mg Capsule - 1 Capsule(s) by mouth twice a day
ACETAMINOPHEN [TYLENOL] - 325 mg Tablet - 2 Tablet(s) by mouth
three times daily
CALCIUM CITRATE-VITAMIN D3 - 315 mg-200 unit Tablet - 1 
Tablet(s)
by mouth twice a day
SIMETHICONE - 80 mg Tablet, Chewable - 40 mg by mouth three 
times
a day
ZINC OXIDE [BOUDREAUXS BUTT PASTE] - 16 % Paste - Apply 
topically
three times daily as needed

 
Discharge Medications:
1. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
2. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
4. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for Insomnia.  
5. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed) as needed for Cough.  
7. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO TID (3 times a day).  
8. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day): titrate to 3 bowel movements per day.  
9. Rifaximin 200 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day). *** of note, patient on neomycin at home due to lack of 
insurance coverage of rifaximin 
10. Lipase-Protease-Amylase 16,000-48,000 -48,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
11. Cefpodoxime 200 mg Tablet Sig: One (1) Tablet PO twice a day 
for 2 doses.
Disp:*2 Tablet(s)* Refills:*0*
12. Calcium Citrate + 315-200 mg-unit Tablet Sig: One (1) Tablet 
PO twice a day.  
13. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO 
1X/WEEK (___).  
14. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO three 
times a day as needed for pain.  
15. AndroGel 1 %(50 mg/5 gram) Gel in Packet Sig: One (1) packet 
Transdermal once a day.  
16. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
17. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
18. Simethicone 80 mg Tablet, Chewable Sig: ___ Tablet, 
Chewable PO TID (3 times a day). 
19. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lower Gastrointestinal Bleed
Acute Blood Loss Anemia

Compenstated end-stage liver disease
Chronic Pancreatitis

 
Discharge Condition:
Hemodynamically stable with brown stools, ambulating the unit 
independently. Alert, oriented x3. Eating a regualr diet.

 
Discharge Instructions:
You were admitted with bleeding from your gastrointestinal 
tract. The bleeding has stopped and you required 3 blood 
transfusions during your stay. You underwent an endoscopy and a 
colonoscopy that did not show a clear source for your bleeding 
so a capsule study was performed prior to your discharge which 
you will need follow up for as an outpatient. Also, a polyp just 
past your stomach was found on the endoscopy that needs to be 
biopsied as an outpatient.

Please resume a regular diet and all of your home medications. 
Please follow up with Dr. ___ as scheduled. Please call the 
liver clinic if you develop any further signs of bleeding in 
your stool, feel lightheaded, have chest pain, or any other new 
concerns.
 
Followup Instructions:
___